US08486965B2
Production of ethyl 2-chloro-4-ethenylbenzoate
A mixture of ethyl 4-bromo-2-chlorobenzoate (1.00 g, 3.79 mmol), tributyl(vinyl)tin (2.41 g, 7.59 mmol) and tetrakis(triphenylphosphine)palladium (0) (439 mg, 0.38 mmol) in DMF (15 mL) was stirred at 100° C. for 1 hr. After cooling, the mixture was diluted with water (150 mL), and extracted twice with ethyl acetate. The extracts were combined, washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=20:1) to give the title compound (820 mg, 100%) as a colorless oil.

reactant | ethyl 4-bromo-2-chlorobenzoate | 3.79 mmol, 1.00 g | BrC1=CC(=C(C(=O)OCC)C=C1)Cl | C9H8BrClO2
reactant | tributyl(vinyl)tin | 7.59 mmol, 2.41 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmol, 439 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-chloro-4-ethenylbenzoate | 820 mg, 100% | ClC1=C(C(=O)OCC)C=CC(=C1)C=C | C11H11ClO2
